
M879959749 N002 vin 0 0 NMOS l=0.18u w=2u
M550341613 vout vb1 N002 0 NMOS l=0.18u w=2u
M291793202 vout vb2 N001 VDD PMOS l=0.18u w=4u
M278393677 N001 vb3 VDD VDD PMOS l=0.18u w=4u
VDD VDD 0 1.8
C920431975 vout 0 1p
